US09034866B2
A solution of 4-Acetylamino-9-(3-hydroxy-3-methyl-but-1-ynyl)-4,5-dihydro-6-oxa-3-thia-1-aza-benzo[e]azulene-2-carboxylic acid methyl ester (81 mg, 0.202 mmol), in methanol-ammonia (5 mL) was stirred at room temperature for 0.5 h. The reaction mixture was concentrated to afford crude product, which was triturated with EtOAc and hexane (1:1) and then filtered to afford compound 4-Acetylamino-9-(3-hydroxy-3-methyl-but-1-ynyl)-4,5-dihydro-6-oxa-3-thia-1-aza-benzo[e]azulene-2-carboxylic acid amide (36 mg, 47%) as a white solid. 1H NMR (400 MHz, DMSO-d6): δ 8.74 (d, J=8.5 Hz, 1H), 8.6 (d, J=2.2 Hz, 1H), 8.49 (s, 1H), 7.92 (s, 1H), 7.34 (dd, J1=8.3 Hz, J2=2.2 Hz, 1H), 7.10 (d, J=8.4 Hz, 2H), 5.53 (m, 1H), 5.45 (s, 1H), 4.37 (m, 1H), 4.18 (m, 1H), 1.89 (s, 3H), 1.49 (s, 6H); LC-MS (ESI & APCI): 386.5 (M+1).

reactant | 4-Acetylamino-9-(3-hydroxy-3-methyl-but-1-ynyl)-4,5-dihydro-6-oxa-3-thia-1-aza-benzo[e]azulene-2-carboxylic acid methyl ester | 0.202 mmol, 81 mg | COC(=O)C=1SC=2C(COC3=C(C2N1)C=C(C=C3)C#CC(C)(C)O)NC(C)=O | C20H20N2O5S
reactant | methanol ammonia | 5 mL | CO.N
product | 4-Acetylamino-9-(3-hydroxy-3-methyl-but-1-ynyl)-4,5-dihydro-6-oxa-3-thia-1-aza-benzo[e]azulene-2-carboxylic acid amide | 36 mg, 47% | C(C)(=O)NC1COC2=C(C=3N=C(SC13)C(=O)N)C=C(C=C2)C#CC(C)(C)O | C19H19N3O4S
